US09376418B2
To 3-bromo-5-methylaniline (10.0 g, 53.7 mmol) a 250 mL flask was added dioxane (179 mL), bis(pinacolato)diboron (15.0 g, 59.1 mmol), and potassium acetate (8.44 g, 86 mmol). The system was purged and flushed with Ar(g) (3×) before adding Pd(PCy3)2 (0.897 g, 1.34 mmol). The system was purged and flushed with Ar(g) (3×) before sealing the system and heating to 80° C. overnight. The reaction was cooled to room temperature and filtered through CELITE (washed with chloroform) and diluted with water. The organic was extracted, dried over sodium sulfate, and was concentrated to dryness before purification by column chromatography (10-50% ethyl acetate in hexanes) to yield 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline. MS APCI calc'd for C13H21BNO2 [M+H]+ 234. found 234.

reactant | 3-bromo-5-methylaniline | 53.7 mmol, 10.0 g | BrC=1C=C(N)C=C(C1)C | C7H8BrN
reactant | bis(pinacolato)diboron | 59.1 mmol, 15.0 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 86 mmol, 8.44 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 179 mL | O1CCOCC1 | C4H8O2
product | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | CC=1C=C(N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
